US04559297
To 32.4 g (0.1 mol) of 2,5-dibromohydroquinone diethyl ether were successively added 160 ml of diether ether, 2.8 g (0.4 gram-atom) of metallic lithium and 21.7 g (0.2 mol) of trimethylsilyl chloride, and the mixture was stirred under a nitrogen stream at 20° to 23° C. 27.4 g (0.2 mol) of butyl bromide was added dropwise to the mixture over a period of 1 hour, and the stirring was continued for an additional one hour while heating at 35° C. After cooling with ice, 50 ml of methanol was added thereto, followed by stirring. The reaction mixture was poured into water, and was extracted with 200 ml of ethyl acetate. The ethyl acetate layer was washed with 200 ml of a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to dryness and crystallized from acetonitrile. Recrystallization from acetonitrile gave 15.5 g (yield: 50%) of 2,5-bis(trimethylsilyl)hydroquinone diethyl ether having a melting point of 129° C.

reactant | 2,5-dibromohydroquinone diethyl ether | 0.1 mol, 32.4 g | C(C)OC1=C(C=C(OCC)C(=C1)Br)Br | C10H12Br2O2
reactant | lithium | 2.8 g | [Li] | Li
reactant | trimethylsilyl chloride | 0.2 mol, 21.7 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | butyl bromide | 0.2 mol, 27.4 g | C(CCC)Br | C4H9Br
solvent | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2,5-bis(trimethylsilyl)hydroquinone diethyl ether | 15.5 g, yield: 50% | C(C)OC1=C(C=C(OCC)C(=C1)[Si](C)(C)C)[Si](C)(C)C | C16H30O2Si2
